US07132428B2
b) 5-(2-Fluorophenyl)-3-methyl-1H-pyrazolo[4,3-c]isoquinoline (X)
The preparation took place in analogy to example 34 (D) using 182 mg of 2-fluoro-N-(3-methyl-5-phenyl-1H-pyrazol-4-yl)-benzamide, except 10.7 ml of phosphorous oxychloride was used and the reaction was stirred for 4 hrs. Trituration of the residue with ethyl acetate/dichloromethane (1/1) gave the title compound as a cream solid.

reactant | 2-fluoro-N-(3-methyl-5-phenyl-1H-pyrazol-4-yl)-benzamide | 182 mg | FC1=C(C(=O)NC=2C(=NNC2C2=CC=CC=C2)C)C=CC=C1 | C17H14FN3O
reactant | phosphorous oxychloride | 10.7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethyl acetate dichloromethane | C(C)(=O)OCC.ClCCl
product | 5-(2-Fluorophenyl)-3-methyl-1H-pyrazolo[4,3-c]isoquinoline | FC1=C(C=CC=C1)C1=NC2=C(C=3C=CC=CC13)NN=C2C | C17H12FN3
